US07842696B2
A mixture of 4-(2-fluoro-phenyl)-1H-pyrazolehydrochloride salt (prepared by the method described above) (50 mg, 0.25 mmol), DIPEA (85 mg, 0.115 ml, 0.66 mmol) and DCM (1.5 ml) was added to a stirred solution of triphosgene (30 mg, 0.1 mmol) in DCM (2.5 mL) at room temperature. After 30 minutes, to the above solution, a mixture of 2-amino-1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (prepared by the method described above) (102 mg, 0.27 mmol), DIPEA (85 mg, 0.115 ml, 0.66 mmol) and DCM (1.5 ml) was added and the resulting mixture was stirred at room temperature for 1 hr. Cold water was then added and the product was extracted with DCM and the organic layer was washed with 10% HCl solution, saturated sodium bicarbonate solution and brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by column chromatography (using silica gel of 60-120 mesh and 50% EtOAc in Hexane as eluent) to afford 59 mg (45% yield) 4-(2-fluoro-phenyl)-pyrazole-1-carboxylic acid {2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide. LCMS Purity: 95.23%. 1H NMR (CDCl3): δ 8.6 (t, 1H), 8.0 (m, 2H), 7.8 (m, 1H), 7.6 (t, 1H), 7.3 (m, 1H), 7.2-7.0 (m, 3H), 4.36-4.2 (m, 2H), 4.1-3.8 (m, 1H), 3.8-3.46 (m, 4H), 3.6 (t, 1H), 3.3-3.2 (m, 2H).

reactant | 4-(2-fluoro-phenyl)-1H-pyrazolehydrochloride salt | Cl.FC1=C(C=CC=C1)C=1C=NNC1
reactant | DIPEA | 0.66 mmol, 0.115 ml, 85 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | triphosgene | 0.1 mmol, 30 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-amino-1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)F)C(F)(F)F)=O
reactant | DIPEA | 0.66 mmol, 0.115 ml, 85 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-(2-fluoro-phenyl)-pyrazole-1-carboxylic acid {2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 59 mg, 45% yield | FC=1C=CC(=C(C(=O)N2CCN(CC2)C(CNC(=O)N2N=CC(=C2)C2=C(C=CC=C2)F)=O)C1)C(F)(F)F | C24H20F5N5O3
